US08937092B2
N-(4-Aminobenzyl)ethanesulfonamide (504 mg, 2.35 mmol) was dissolved in acetonitrile (3 mL) and tetrahydrofuran (4 mL). The reaction mixture was added pyridine (0.23 mL, 2.78 mmol) and phenyl chloroformate (0.31 mL, 2.43 mmol) and stirred at room temperature for 3 h under nitrogen atmosphere. TLC showed complete consumption of starting material. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic part was washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude was purified by column chromatography to give phenyl 4-(ethylsulfonamidomethyl)phenylcarbamate (697 mg, 87%).

reactant | N-(4-Aminobenzyl)ethanesulfonamide | 2.35 mmol, 504 mg | NC1=CC=C(CNS(=O)(=O)CC)C=C1 | C9H14N2O2S
reactant | pyridine | 2.78 mmol, 0.23 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 2.43 mmol, 0.31 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | phenyl 4-(ethylsulfonamidomethyl)phenylcarbamate | 697 mg, 87% | C(C)S(=O)(=O)NCC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C16H18N2O4S
